US08404649B2
Preparation 2: (E)-methyl 4-styryl-1-naphthoate
To a solution of methyl 4-bromo-1-naphthoate, (Preparation 1, 5.4 g, 20.4 mmol) in ethanol (50 mL) and toluene (50 mL) was added Pd(dppf)2Cl2 (760 mg, 1.0 mmol), trans-2-phenylvinylboronic acid (3.3 g, 22.4 mmol) and sodium bicarbonate aqueous solution (40 mL of 2M solution). The mixture was heated to reflux for 3 hours. The mixture was cooled to room temperature and diluted with EtOAc (150 mL) and water (75 mL). The organic phase was separated, washed with brine (50 mL), dried over sodium sulfate, and concentrated. The residue was purified by chromatography on silica gel eluting from 10:90 EtOAc:heptane to 50:50 EtOAc:heptane to afford an oil which solidified upon standing (5.3 g, 90%).

reactant | methyl 4-bromo-1-naphthoate | BrC1=CC=C(C2=CC=CC=C12)C(=O)OC | C12H9BrO2
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | trans-2-phenylvinylboronic acid | 22.4 mmol, 3.3 g | C1(=CC=CC=C1)/C=C/B(O)O | C8H9BO2
reactant | sodium bicarbonate | 2M, 40 mL | C([O-])(O)=O.[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | water | 75 mL | O | H2O
catalyst | Pd(dppf)2Cl2 | 1.0 mmol, 760 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (E)-methyl 4-styryl-1-naphthoate | C(=C\C1=CC=CC=C1)/C1=CC=C(C2=CC=CC=C12)C(=O)OC | C20H16O2
